US07615568B2
Preparation of N-(5-Chloropyridin-2-yl)-3-[4-methylsulfinyl-2-[3-(1-pyrrolidinyl)propoxy]benzoylamino]pyridine-2-carboxamide Hydrochloride
To a mixture of 3-[2-(3-aminopropoxy)-4-methylsulfinyl-benzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide (650 mg, 1.33 mmol), DMF (10 mL) and K2CO3 (552 mg, 4.0 mmol) was added 1,4-dibromobutane (0.16 mL, 1.33 mmol) and the mixture was heated to 80° C. for 5 h. The reaction mixture was cooled, diluted with EtOAc and water, and partitioned. The organic layer was concentrated and chromatographed (250 g of SiO2, CH2Cl2 to 5% of 2 M NH3/MeOH in CH2Cl2) to give impure product. This material was HPLC on a Vydac C18 column [5% CH3CN/(0.1% TFA in H2O) to 70% CH3CN/(0.1% TFA in H2O); Rt: 26.1 m] to give the desired product as a white solid (279 mg, 36%).

reactant | 3-[2-(3-aminopropoxy)-4-methylsulfinyl-benzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide | 1.33 mmol, 650 mg | NCCCOC1=C(C(=O)NC=2C(=NC=CC2)C(=O)NC2=NC=C(C=C2)Cl)C=CC(=C1)S(=O)C | C22H22ClN5O4S
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | K2CO3 | 4.0 mmol, 552 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dibromobutane | 1.33 mmol, 0.16 mL | BrCCCCBr | C4H8Br2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | CH3CN | CC#N | C2H3N
product | N-(5-Chloropyridin-2-yl)-3-[4-methylsulfinyl-2-[3-(1-pyrrolidinyl)propoxy]benzoylamino]pyridine-2-carboxamide Hydrochloride | 279 mg, 36% | Cl.ClC=1C=CC(=NC1)NC(=O)C1=NC=CC=C1NC(C1=C(C=C(C=C1)S(=O)C)OCCCN1CCCC1)=O | InChI=1S/C26H28ClN5O4S.ClH/c1-37(35)19-8-9-20(22(16-19)36-15-5-14-32-12-2-3-13-32)25(33)30-21-6-4-11-28-24(21)26(34)31-23-10-7-18(27)17-29-23;/h4,6-11,16-17H,2-3,5,12-15H2,1H3,(H,30,33)(H,29,31,34);1H
